US08703768B2
Step 1: 3-Amino-N-(2-methoxyethyl)-N-methylpicolinamide
According to the procedure described in example 29, 3-aminopicolinic acid was reacted with 2-methoxy-N-methylethanamine to give the title compound (85%) as colourless viscous oil.

reactant | 3-aminopicolinic acid | NC=1C(=NC=CC1)C(=O)O | C6H6N2O2
reactant | 2-methoxy-N-methylethanamine | COCCNC | C4H11NO
product | 3-Amino-N-(2-methoxyethyl)-N-methylpicolinamide | 85% | NC=1C(=NC=CC1)C(=O)N(C)CCOC | C10H15N3O2
